US09079914B2
5-(1,1-Difluoroethyl)pyrazine-2-carboxylic acid 28-(3)
Methyl 5-(1,1-difluoroethyl)pyrazine-2-carboxylate (0.65 g, approx. purity 85%) was dissolved in dioxan (2 mL) and water (2 mL) was added, followed by lithium hydroxide monohydrate (54 mg, portionwise). After stirring at RT for 90 mins, the mixture was concentrated to 2 mL and diethyl ether (20 mL) added. The mixture was then extracted with NaOH (1 N, aq., 20 mL), and the aqueous portions acidified with 6N HCl to pH 2. The aqueous portion was then extracted with EtOAc, dried over MgSO4 and evaporated to afford the title compound as a white solid (119 mg). 1H NMR (400 MHz, CDCl3) δ ppm 2.11 (t, J=18.8 Hz, 3H), 9.01 (d, J=1.3 Hz, 1H), 9.47 (d, J=1.3 Hz, 1H)

reactant | Methyl 5-(1,1-difluoroethyl)pyrazine-2-carboxylate | 0.65 g | FC(C)(F)C=1N=CC(=NC1)C(=O)OC | C8H8F2N2O2
reactant | water | 2 mL | O | H2O
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | dioxan | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(1,1-Difluoroethyl)pyrazine-2-carboxylic acid | 119 mg | FC(C)(F)C=1N=CC(=NC1)C(=O)O | C7H6F2N2O2
